US04880809
Using 1-oxo-1,2,3,4-tetrahydro-6-naphthoic acid [Itoh et al., Chem. Pharm. Bull., 32, 130 (1984)] (0.8 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (2.25 g), triethylamine (1.7 g), N,N-dimethylformamide (10 ml) and diethyl phosphorocyanidate (1.6 ml), an amidation as that described in Example 6 is carried out. The product is purified by silica gel column chromatography (hexane:acetone=1:1), and converted to the hydrochloride in a mixture of ethanol, ethyl acetate and ethyl ether to give 1-(1-oxo-1,2,3,4-tetrahydro-6-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (1.5 g) as colorless crystals, m.p. 210°-215° C. (decomp.).

reactant | 1-oxo-1,2,3,4-tetrahydro-6-naphthoic acid | 0.8 g | O=C1CCCC2=CC(=CC=C12)C(=O)O | C11H10O3
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 2.25 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 1.6 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(1-oxo-1,2,3,4-tetrahydro-6-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 1.5 g | Cl.O=C1CCCC2=CC(=CC=C12)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C25H30N2O5.ClH/c1-30-22-13-17(14-23(31-2)24(22)32-3)16-26-9-11-27(12-10-26)25(29)19-7-8-20-18(15-19)5-4-6-21(20)28;/h7-8,13-15H,4-6,9-12,16H2,1-3H3;1H
